US06716863B2
(iii) (2S)-1-(benzyloxy)-3-(1H-imidazol-2-yl)-2-propanol
Using (3S)-4-(benzyloxy)-3-hydroxybutyronitrile (6.51 g), a 5.12 N solution of hydrogen chloride in ether (7.0 ml), and aminoacetaldehyde dimethyl acetal (3.58 g), the same reaction as Reference Example 6 was carried out to yield the titled compound (2.22 g) as a light-brown oily substance.

reactant | (3S)-4-(benzyloxy)-3-hydroxybutyronitrile | 6.51 g | C(C1=CC=CC=C1)OC[C@H](CC#N)O | C11H13NO2
reactant | hydrogen chloride | Cl | ClH
reactant | aminoacetaldehyde dimethyl acetal | 3.58 g | COC(CN)OC | C4H11NO2
solvent | ether | 7.0 ml | CCOCC | C4H10O
product | (2S)-1-(benzyloxy)-3-(1H-imidazol-2-yl)-2-propanol | 2.22 g | C(C1=CC=CC=C1)OC[C@H](CC=1NC=CN1)O | C13H16N2O2
